US04446318
A 8.0 ml portion of acetonitrile was added to 1.36 g of 7-ACA and 1.54 g of 2-ethoxycarbonylmethylthio-5-mercapto-1,3,4-thiadiazole, and the mixture was cooled to -40° to -30° C., followed by adding thereto dropwise 5.40 g of DCPA under stirring. The external bath was removed and the reaction mixture was stirred for 8 minutes, then warmed at 40° C. and stirred for 20 minutes to allow the reaction to proceed. The reaction solution was poured into 10 ml of ice-water, which was adjusted to pH 4.4 with 25% aqueous ammonia. The precipitated powder was recovered by filtration, washed with water and dried, thereby affording 2.08 g (92.7% of yield) of 7-amino-3-[(2-ethoxycarbonylmethylthio-1,3,4-thiadiazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid in the form of mud yellow powder.

reactant | 7-ACA | 1.36 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 2-ethoxycarbonylmethylthio-5-mercapto-1,3,4-thiadiazole | 1.54 g | C(C)OC(=O)CSC=1SC(=NN1)S | C6H8N2O2S3
reactant | DCPA | 5.40 g | COC(=O)C1=C(C(=C(C(=C1Cl)Cl)C(=O)OC)Cl)Cl | C10H6Cl4O4
reactant | ammonia | N | H3N
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-amino-3-[(2-ethoxycarbonylmethylthio-1,3,4-thiadiazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid | 2.08 g, 92.7% | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)SCC(=O)OCC)C(=O)O)C1=O | C14H16N4O5S4
